US05733707
To a mixture of 54.4 g of p-isobutyloxycarbonylaminophenyl sulfonamide, 40 g of triethylamine, 2 g of N,N-dimethylaminopyridine and 150 ml of N,N-dimethylacetamide was then added dropwise 22.8 g of methacrylic chloride under cooling with ice. After the completion of the dropwise addition, the reaction mixture was stirred for 2 hours. The reaction product was then poured into water. The resulting crystal was then withdrawn by filtration. The crystal was then recrystallized from a 3/7 (by volume) mixture of toluene and ethyl acetate to obtain 40 g of N-(p-isobutyloxycarbonylaminophenylsulfonyl)methacrylamide in the form of white crystal (m.p. 194°-196° C.).

reactant | p-isobutyloxycarbonylaminophenyl sulfonamide | 54.4 g | C(C(C)C)OC(=O)NC1=CC=C(C=C1)S(=O)(=O)N | C11H16N2O4S
reactant | triethylamine | 40 g | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylacetamide | 150 ml | CN(C(C)=O)C | C4H9NO
reactant | methacrylic chloride | 22.8 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | water | O | H2O
product | N-(p-isobutyloxycarbonylaminophenylsulfonyl)methacrylamide | 40 g | C(C(C)C)OC(=O)NC1=CC=C(C=C1)S(=O)(=O)NC(C(=C)C)=O | C15H20N2O5S
